US07649002B2
Methyl (3S*,4R*)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate
To a suspension of methyl (3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate, from preparation 20 (15 g, 45 mmol) in ethanol (225 mL) at room temperature under dry nitrogen was added 10% palladium on carbon (Degussa type) (1.5 g), and the reaction mixture placed under 50 psi pressure of hydrogen, and heated to 40° C. overnight. After cooling to room temperature, the reaction mixture was filtered through Celite® and concentrated in vacuo to afford the title compound as an orange oil (10.8 g, 98%).

reactant | methyl (3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C=C(C=C1)F)F)C(=O)OC | C19H19F2NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 225 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | Methyl (3S*,4R*)-4-(2,4-difluorophenyl)pyrrolidine-3-carboxylate | 10.8 g, 98% | FC1=C(C=CC(=C1)F)[C@H]1[C@@H](CNC1)C(=O)OC | C12H13F2NO2
